US07601834B2
FIG. 2 illustrates the synthesis of Sodium Methotrexate Orotate. Orotic acid (1.74 g) was treated with sodium hydroxide (0.45 g) in water (100 mL). The mixture was warmed, stirred for 1 h and stored in the refrigerator overnight. Etanol (30 mL) was added to the solution and the precipitate was collected by filtration to give sodium orotate as a colorless solid which was dried in vacuum over night and used for the next step (1.51 g).

reactant | Orotic acid | 1.74 g | C(C1=CC(=O)NC(=O)N1)(=O)O | C5H4N2O4
reactant | sodium hydroxide | 0.45 g | [OH-].[Na+]
reactant | Etanol | 30 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | sodium orotate | C(C1=CC(=O)NC(=O)N1)(=O)[O-].[Na+] | InChI=1S/C5H4N2O4.Na/c8-3-1-2(4(9)10)6-5(11)7-3;/h1H,(H,9,10)(H2,6,7,8,11);/q;+1/p-1
